US04839355
n-Butyllithium (192 ml, 2.4M in hexane) was slowly added to a stirred solution of 30.24 g monoethylmalonate and 15 mg 2,2'-bipyridine in 500 ml tetrahydrofuran cooled to -60° to -70° C. under nitrogen. After about half of the butyllithium had been added, the temperature of the mixture was raised to -20° to -25° C. at which temperature the remainder of the butyllithium was added. The reaction mixture was then recooled to -60° to -70° C. and 33.41 g 4-bromo-2,3,5,6-tetrafluorobenzoyl chloride in 10 ml tetrahydrofuran was added. The reaction mixture was allowed to warm to room temperature, stirred overnight, and then poured into 460 ml 1M hydrochloric acid. The organic layer was separated, dried (magnesium sulfate) and concentrated. The residue was dissolved in ether, washed with aqueous potassium bicarbonate solution, dried (magnesium sulfate), concentrated and distilled to give 34.18 g ethyl 4-bromo-2,3,5,6-tetrafluorobenzoylacetate, b.p. 112°-117° C.(0.8 mm.).

reactant | n-Butyllithium | 2.4M, 192 ml | C(CCC)[Li]
reactant | monoethylmalonate | 30.24 g | C(C)OC(CC(=O)[O-])=O
reactant | 4-bromo-2,3,5,6-tetrafluorobenzoyl chloride | 33.41 g | BrC1=C(C(=C(C(=O)Cl)C(=C1F)F)F)F | C7BrClF4O
reactant | hydrochloric acid | 1M, 460 ml | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | 2,2'-bipyridine | 15 mg | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
product | ethyl 4-bromo-2,3,5,6-tetrafluorobenzoylacetate | 34.18 g | BrC1=C(C(=C(C(=O)CC(=O)OCC)C(=C1F)F)F)F | C11H7BrF4O3
